US07795288B2
(4-Methoxy-phenyl)-acetaldehyde
Dess-Martin periodinane (3.2 g, 7.29 mmol, 1.1 equiv) is added in one portion to a mixture of 4-methoxyphenethyl alcohol (1.0 g, 6.63 mmol) and NaHCO3 (1.1 g, 13.2 mmol, 2.0 equiv) in CH2Cl2, under an argon atmosphere. The resulting mixture is stirred for 1 h at RT and directly loaded on a silica gel (60 g) column. Flash chromatography purification (CH2Cl2/Et2O, 95/5), affords the title compound as a colorless oil: ES-MS: 148.9 [M−H]−; single peak at tR=6.12 min (System 1); Rf=0.74 (CH2Cl2/Et2O, 95/5).

reactant | Dess-Martin periodinane | 7.29 mmol, 3.2 g, 1.1 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-methoxyphenethyl alcohol | 6.63 mmol, 1.0 g | COC1=CC=C(CCO)C=C1 | C9H12O2
reactant | NaHCO3 | 13.2 mmol, 1.1 g, 2.0 equiv | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Methoxy-phenyl)-acetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
